US07674822B2
Trifluoromethanesulfonic anhydride (4.6 ml 27 mmol, 1.5 equiv) was dropwise added to a 0° C. solution of 3-hydroxy-benzo[b]thiophene-2,6-dicarboxylic acid 6-tert-butyl ester 2-methyl ester (5.56 g, 18 mmol) in DCM (50 ml) and Et3N (50 ml). The reaction mixture was warmed to RT and stirred for 30 min. After adding water and EtOAc the crude reaction mixture was washed with sat. NaHCO3 then dried over MgSO4. Filtration, evaporation, and purification by column chromatography yielded 4.56 g (57%) of 3-trifluoromethanesulfonyloxy-benzo[b]thiophene-2,6-dicarboxylic acid 6-tert-butyl ester 2-methy ester. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.64 (s, 9H) 4.01 (s, 3H) 7.87 (d, J=8.59 Hz, 1H) 8.12 (dd, J=8.59, 1.52 Hz, 1H) 8.50 (s, 1H). HRMS (ESI+, m/z) calcd for [M+NA]1+, 463.01035, found 463.01013.

reactant | Trifluoromethanesulfonic anhydride | 27 mmol, 4.6 ml, 1.5 equiv | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 3-hydroxy-benzo[b]thiophene-2,6-dicarboxylic acid 6-tert-butyl ester 2-methyl ester | 18 mmol, 5.56 g | COC(=O)C1=C(C2=C(S1)C=C(C=C2)C(=O)OC(C)(C)C)O | C15H16O5S
reactant | water | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | Et3N | 50 ml | CCN(CC)CC | C6H15N
product | 3-trifluoromethanesulfonyloxy-benzo[b]thiophene-2,6-dicarboxylic acid 6-tert-butyl ester 2-methy ester | 4.56 g, 57% | COC(=O)C1=C(C2=C(S1)C=C(C=C2)C(=O)OC(C)(C)C)OS(=O)(=O)C(F)(F)F | C16H15F3O7S2
